US05116862
1-(But-3-ynylthiomethyl)-4-n-propyl-2,6,7-trioxabicyclo[2.2.2]octane was prepared from 2-(but-3-ynylthio)acetic acid and 3-hydroxymethyl-3-n-propyl-oxetane using the methodology described in Example I.

reactant | 2-(but-3-ynylthio)acetic acid | C(CC#C)SCC(=O)O | C6H8O2S
reactant | 3-hydroxymethyl-3-n-propyl-oxetane | OCC1(COC1)CCC | C7H14O2
product | 1-(But-3-ynylthiomethyl)-4-n-propyl-2,6,7-trioxabicyclo[2.2.2]octane | C(CC#C)SCC12OCC(CO1)(CO2)CCC | C13H20O3S
